US05512630
4'-Acetoxy-2,5-dichlorobenzophenone is prepared by treating 4'-Hydroxy-2,5-dichlorobenzophenone, which is prepared by the Friedel-Crafts acylation of phenol with 2,5-dichlorobenzoyl-chloride, with acetyl chloride.

reactant | 4'-Hydroxy-2,5-dichlorobenzophenone | OC1=CC=C(C=C1)C(C1=C(C=CC(=C1)Cl)Cl)=O | C13H8Cl2O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 2,5-dichlorobenzoyl-chloride | ClC1=C(C(=O)Cl)C=C(C=C1)Cl | C7H3Cl3O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 4'-Acetoxy-2,5-dichlorobenzophenone | C(C)(=O)OC1=CC=C(C=C1)C(C1=C(C=CC(=C1)Cl)Cl)=O | C15H10Cl2O3
